US07915286B2
Preparation of 4-(cyclo-propylamino)-1-ethyl-N-methoxy-N-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxamide
4-cyclopropylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid (500 mg, 0.0020 mole) and N,O-dimethylhydroxylamine hydrochloride (298 mg, 0.0030 mole) were taken in dimethylformamide. At 0° C., hydroxybenzotriazole (550 mg, 0.0040 mole) and N-methylmorpholine (1.34 ml, 0.012 mole) were added and the reaction mixture was stirred for about 1 hour. 1-(3-dimethylaminopropyl) 3-ethyl carbodiimide hydrochloride (780 mg, 0.0040 mole) was added and the reaction mixture was stirred for about 14 hours. Water was added and extraction was carried out with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give an oily compound. Yield: 500 mg. m/z: (M++1) 290.2.

reactant | 4-cyclopropylamino-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | 0.0020 mole, 500 mg | C1(CC1)NC1=C2C(=NC=C1C(=O)O)N(N=C2)CC | C12H14N4O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.0030 mole, 298 mg | Cl.CNOC
reactant | hydroxybenzotriazole | 0.0040 mole, 550 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-methylmorpholine | 0.012 mole, 1.34 ml | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl) 3-ethyl carbodiimide hydrochloride | 0.0040 mole, 780 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-(cyclo-propylamino)-1-ethyl-N-methoxy-N-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxamide | C1(CC1)NC1=C2C(=NC=C1C(=O)N(C)OC)N(N=C2)CC | C14H19N5O2
